US05932601
To a mixture of ethyl 3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]propionate (20 g), sodium borohydride (9.8 g) and tetrahydrofuran (THF) (200 ml) was added dropwise methanol (50 ml) over 2 hours under reflux. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated to yield 3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]propanol (15.5 g, 87%), which was recrystallized from ethyl acetate-hexane to give colorless prisms, m.p.99-100° C.

reactant | ethyl 3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]propionate | 20 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CCC(=O)OCC)OC)C | C21H23NO6
reactant | sodium borohydride | 9.8 g | [BH4-].[Na+]
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
product | 3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]propanol | 15.5 g, 87% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CCCO)OC)C | C19H21NO5
